* source 004_CORRIENTES_ETAPAS
X_U1         0 N16912 10VCC 10VEE N17949 N16922 N16828 N16916 INA849
R_RShunt         N16912 0  0.01 TC=0,0 
R_R1         N16916 N16828  60.6 TC=0,0 
V_V4         N16922 0 -1.01m
V_V3         0 10VEE 10Vdc
R_R2         0 N16912  50 TC=0,0 
V_V2         10VCC 0 10Vdc
X_U2         N17949 N17776 5VCC 5VEE N17504 OPAx210
R_RL         0 N17504  10Meg TC=0,0 
R_R3         N17504 N17776  1k TC=0,0 
R_R4         N17776 N17916  1.5k TC=0,0 
V_V5         N17916 0 {V}
V_V7         0 5VEE 5Vdc
V_V6         5VCC 0 5Vdc
.PARAM  v=0
