* source 005_CORREINES_SIM
V_V5         N19820 0 60.559u
V_V3         0 10VEE 10Vdc
R_RL         0 N19840  10Meg TC=0,0 
V_V2         10VCC 0 10Vdc
R_R3         N19840 N19826  1k TC=0,0 
R_RShunt         N20134 N19926  0.01 TC=0,0 
R_R1         N20138 N20040  60.6 TC=0,0 
X_U2         N20098 N19826 5VCC 5VEE N19840 OPAx210
R_R4         N19826 N19820  1.5k TC=0,0 
V_V4         N20144 0 -1.01m
X_U1         N19926 N20134 10VCC 10VEE N20098 N20144 N20040 N20138 INA849
V_V7         0 5VEE 5Vdc
R_R2         0 N20134  1.67 TC=0,0 
V_V6         5VCC 0 5Vdc
V_V1         N19926 0 5Vdc
