* source 002_OFFSET_AI
X_U1         N14587 N14594 VCC VEE N14962 0 N14488 N14492 INA849
R_R1         N14492 N14488  60.6 TC=0,0 
R_R2         0 N14594  50 TC=0,0 
V_V1         N14587 0 0Vdc
R_RShunt         N14594 N14587  0.01 TC=0,0 
V_V2         VCC 0 5Vdc
V_V3         0 VEE 5Vdc
R_RL         0 N14962  10Meg TC=0,0 
