* source 001_DOS_ETAPAS_IDEAL
E_U2         N14526 0 VALUE {LIMIT(V(N14615,N14509)*1E6,-5V,5V)}
R_R3         0 N14509  1k TC=0,0 
R_R4         N14509 N14526  1k TC=0,0 
R_R5         N14928 N14615  1k TC=0,0 
R_R6         N14762 N14615  1k TC=0,0 
R_R7         0 N14615  100k TC=0,0 
V_V2         N14928 0  AC 0.1
+SIN 2.5 0.1 50 0 0 0
V_V1         0 N14762 2.4
R_R2         N16187 N16177  24k TC=0,0 
E_U1         N16177 0 VALUE {LIMIT(V(N14526,N16187)*1E6,-5V,5V)}
R_R1         0 N16187  1k TC=0,0 
