* source 002_DOS_ETAPAS_REAL
V_V2         N17025 0  AC 0.1
+SIN 2.5 0.1 50 0 0 0
R_R5         N17025 N17035  1k TC=0,0 
R_R3         0 N16919  1k TC=0,0 
R_R2         N16991 N16955  24k TC=0,0 
R_R6         N17125 N17035  1k TC=0,0 
R_R4         N16919 N16933  1k TC=0,0 
R_R1         0 N16991  1k TC=0,0 
V_V1         0 N17125 2.4
R_R7         0 N17035  100k TC=0,0 
X_U3         N17035 N16919 VCC VEE N16933 OPAx210
X_U4         N16933 N16991 VCC VEE N16955 OPAx210
V_V3         VCC 0 10Vdc
V_V4         0 VEE 10Vdc
