* source 004_ETAPA_UNO_COMPENSACION_OFFSET
R_R6         N19747 N19651  1k TC=0,0 
R_R4         N19513 N19527  1k TC=0,0 
V_V1         0 N19747 0
X_U3         N19651 N19513 VCC VEE N19527 OPAx210
R_R5         N19641 N19651  1k TC=0,0 
R_R7         0 N19651  100k TC=0,0 
R_R3         0 N19513  1k TC=0,0 
V_V4         0 VEE 10Vdc
V_V3         VCC 0 10Vdc
V_V2         N19641 0  AC 0
+SIN 0 0 50 0 0 0
V_V6         0 5VEE 5Vdc
V_V5         5VCC 0 5Vdc
R_R8         N20472 N19651  900 TC=0,0 
R_R9         N20810 N20472  200k TC=0,0 
R_R10         0 N20472  100 TC=0,0 
X_R11         5VEE N20810 5VCC POT PARAMS: SET={POT_SET} VALUE=50k
.PARAM  pot_set=0
