* source 005_ETAPA_UNO_COMPENSADO_SIM
V_V5         5VCC 0 5Vdc
V_V6         0 5VEE 5Vdc
R_R4         N21468 N21482  1k TC=0,0 
X_U3         N21612 N21468 VCC VEE N21482 OPAx210
R_R6         N21662 N21612  1k TC=0,0 
X_R11         5VEE N21826 5VCC POT PARAMS: SET={POT_SET} VALUE=50k
V_V3         VCC 0 10Vdc
R_R10         0 N21830  100 TC=0,0 
R_R7         0 N21612  100k TC=0,0 
R_R3         0 N21468  1k TC=0,0 
V_V2         N21602 0  AC 0.1
+SIN 2.5 0.1 50 0 0 0
R_R9         N21826 N21830  200k TC=0,0 
R_R5         N21602 N21612  1k TC=0,0 
R_R8         N21830 N21612  900 TC=0,0 
V_V4         0 VEE 10Vdc
V_V1         0 N21662 0
.PARAM  pot_set=502.865m
